US08106214B2
5-Benzo[1,3]dioxol-5-ylmethylene-2-methylsulfanyl-thiazol-4-one
2 g (7.54 mmol) of 5-Benzo[1,3]dioxol-5-ylmethylene-2-thioxo-thiazolidin-4-one and 1.5 ml (1.15 eq.) of DIEA were dissolved in 80 ml NMP. To this solution was added dropwise a freshly prepared solution of 2.43 ml (5 eq.) of Methyliodide in 10 ml NMP. The reaction mixture was stirred for two hours at RT. EtOAc was added and the organic layer was washed 5 times with brine and twice with water. The organic layer was reduced to 50% of volume, where upon 5-Benzo[1,3]dioxol-5-ylmethylene-2-methylsulfanyl-thiazol-4-one started to crystallize. Crystals were filtered off and washed with cold EtOAc.

reactant | 5-Benzo[1,3]dioxol-5-ylmethylene-2-thioxo-thiazolidin-4-one | 7.54 mmol, 2 g | O1COC2=C1C=CC(=C2)C=C2C(NC(S2)=S)=O | C11H7NO3S2
reactant | DIEA | 1.5 ml, 1.15 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | Methyliodide | 2.43 ml, 5 eq. | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 80 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 5-Benzo[1,3]dioxol-5-ylmethylene-2-methylsulfanyl-thiazol-4-one | O1COC2=C1C=CC(=C2)C=C2C(N=C(S2)SC)=O | C12H9NO3S2
